US08710043B2
Step 2. 5-Fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic Acid
To a solution of methyl 5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylate (0.876 g, 5.12 mmol) in MeOH (33 mL) and water (11 mL), was added lithium hydroxide hydrate (1.074 g, 25.6 mmol). The resulting mixture was then stirred at rt for 5 h. The mixture was concentrated and the pH was adjusted to pH=5 using concentrated HCl. The mixture was then concentrated and dried in vacuo. The resulting residue was dissolved in MeOH (20 mL) and silica gel was added. The mixture was concentrated and dried. The solid mixture was then purified by silica gel flash column chromatography (30%-100% EtOAc/hexane, then 0%-100% MeOH/DCM) to give the title compound as an off-white solid. MS (ESI, positive ion) m/z: 158 (M+H).

reactant | methyl 5-fluoro-6-oxo-1,6-dihydropyridine-3-carboxylate | 5.12 mmol, 0.876 g | FC1=CC(=CNC1=O)C(=O)OC | C7H6FNO3
reactant | lithium hydroxide hydrate | 25.6 mmol, 1.074 g | O.[OH-].[Li+]
solvent | MeOH | 33 mL | CO | CH4O
solvent | water | 11 mL | O | H2O
product | 5-Fluoro-6-oxo-1,6-dihydropyridine-3-carboxylic Acid | FC1=CC(=CNC1=O)C(=O)O | C6H4FNO3
